US09260363B2
Synthesis of 5H-indeno[1,2-b]pyridin-5-one
A solution of benzo[h]quinoline (6 g, 33.5 mmol) and KOH (5.6 g, 100.5 mmol) in water (400 mL) was boiled. A hot solution of KMnO4 (14.8 g, 93.8 mmol) in water (240 mL) was added dropwise over 1 hour to the boiling solution. The mixture was refluxed for another 6 hours and filtered hot. The filtrate was allowed to cool to room temperature. The organic layer was extracted with chloroform and water, dried with anhydrous magnesium sulfate. After solvent removal, the residue was purified by column chromatography on silica (acetone-petroleum ether) to give product 2.5 g (42%) as a yellow solid.

reactant | benzo[h]quinoline | 33.5 mmol, 6 g | N1=CC=CC2=CC=C3C(=C12)C=CC=C3 | C13H9N
reactant | KOH | 100.5 mmol, 5.6 g | [OH-].[K+]
reactant | KMnO4 | 93.8 mmol, 14.8 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | 400 mL | O | H2O
solvent | water | 240 mL | O | H2O
product | 5H-indeno[1,2-b]pyridin-5-one | 2.5 g, 42% | N1=C2C(=CC=C1)C(C1=CC=CC=C12)=O | C12H7NO
